US07985862B2
(Step 1) To a solution of morpholine (0.36 ml) and triethylamine (0.58 ml) in methanol (15 ml) was added dropwise a suspension of 2-[(acetylamino)methyl]-4-fluorobenzenesulfonyl chloride (1.00 g) in tetrahydrofuran (5 ml) under ice-cooling, and the mixture was allowed to warm to room temperature, and stirred for 1 hr. The reaction mixture was quenched with saturated brine, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate). The obtained oil was dissolved in ethanol (20 ml), hydrochloric acid (10 ml) was added, and the mixture was stirred with heating under reflux for 9 hr. The solvent was evaporated under reduced pressure, and the residue was collected by filtration, and washed with ethyl acetate to give 1-[5-fluoro-2-(morpholin-4-ylsulfonyl)phenyl]methanamine hydrochloride (0.58 g) as a white solid.

reactant | morpholine | 0.36 ml | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.58 ml | C(C)N(CC)CC | C6H15N
reactant | 2-[(acetylamino)methyl]-4-fluorobenzenesulfonyl chloride | 1.00 g | C(C)(=O)NCC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C9H9ClFNO3S
solvent | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[5-fluoro-2-(morpholin-4-ylsulfonyl)phenyl]methanamine hydrochloride | 0.58 g | Cl.FC=1C=CC(=C(C1)CN)S(=O)(=O)N1CCOCC1 | InChI=1S/C11H15FN2O3S.ClH/c12-10-1-2-11(9(7-10)8-13)18(15,16)14-3-5-17-6-4-14;/h1-2,7H,3-6,8,13H2;1H
